US04764610
Preparation of 1-phenylsulfonyl-1H-indole-2-sulfonamide
To a stirred solution of 10 g (0.0281 mole) of 1-phenylsulfonyl-1H-indole-2-sulfonyl chloride in 150 ml anhydrous THF was added at -78° 4 ml (0.192 mole) of anhydrous ammonia. The resulting slurry was allowed to warm to room temperature over 30 minutes, then was sparged with nitrogen to remove excess ammonia. The slurry was filtered and the filtrate evaporated in vacuo to afford 9.19 g of tan solid, m.p. 199°-200.5°, 1H NMR (CDCl3 /DMSO-d6) δ7.23-7.77 (m, 9H), 8.1-8.28 (m, 3H C-3 proton and SO2NH2). The infrared spectrum of the product included absorptions at 3400 and 3280 cm-1 (SO2NH2).

reactant | 1-phenylsulfonyl-1H-indole-2-sulfonyl chloride | 0.0281 mole, 10 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)S(=O)(=O)Cl | C14H10ClNO4S2
reactant | ammonia | 0.192 mole, 4 ml | N | H3N
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-phenylsulfonyl-1H-indole-2-sulfonamide | 9.19 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)S(=O)(=O)N | C14H12N2O4S2
